US07531532B2
N-(4-Fluorophenyl)-N′-[2-chloro-4-(2-{[(4-pyrrolidin-1-yl)piperidine-1-carbonyl]amino}pyridin-4-yloxy)phenyl]malonamide
4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide (129 mg) was dissolved in N,N-dimethylformamide (2 ml) under a nitrogen atmosphere, and then N-(4-fluorophenyl)malonic acid (183 mg), triethylamine (0.130 ml) and (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate (411 mg) were added thereto at 50° C., followed by stirring at the same temperature for 5 hrs and 30 min. The reaction mixture was cooled down to room temperature, followed by stirring for 2 days. The reaction mixture was partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate:ethanol=19:1). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether was added to precipitate crystals. The crystals were filtered off and dried under aeration to provide the titled compound (64.7 mg, 35.1%) as white crystals.

reactant | 4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide | 129 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1)Cl | C21H26ClN5O2
reactant | triethylamine | 0.130 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate | 411 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(4-Fluorophenyl)-N′-[2-chloro-4-(2-{[(4-pyrrolidin-1-yl)piperidine-1-carbonyl]amino}pyridin-4-yloxy)phenyl]malonamide | 64.7 mg, 35.1% | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCCC1)Cl)=O | C30H32ClFN6O4
